US04476311
(A) Methyl 1-Methyl-5-oxo-2-phenylpyrrolidin-3-carboxylate
To 400 ml. of methanol containing 25 ml. of boron trifluoride etherate was added 60 g of 1-methyl-5-oxo-2-phenylpyrrolidin-3-carboxylic acid and the solution refluxed for 8 hours. Concentration in vacuo provided an oil which was dissolved in chloroform. The chloroform solution was washed with a saturated sodium carbonate solution, a saturated sodium bicarbonate solution, water, a saturated sodium chloride solution and dried (Na2SO4). Titration and concentration in vacuo provided 63 g. of an oil.

reactant | methanol | 25 ml | CO | CH4O
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | 1-methyl-5-oxo-2-phenylpyrrolidin-3-carboxylic acid | 60 g | CN1C(C(CC1=O)C(=O)O)C1=CC=CC=C1 | C12H13NO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Methyl 1-Methyl-5-oxo-2-phenylpyrrolidin-3-carboxylate | CN1C(C(CC1=O)C(=O)OC)C1=CC=CC=C1 | C13H15NO3
